US06472386B1
Synthesis of Ethyl 4-Hydroxy-2-oxo-4-(3,4,5-trimethoxy-phenyl)-3-butenoate
3′,4′,5′-Trimethoxyacetophenone (12.0 g) was dissolved in THF (50 mL), and potassium tert-butoxide (8.16 g) was added to the solution at 0° C. A THF solution (20 mL) of diethyl oxalate (11.4 g) was then added dropwise to the mixture, and the resultant mixture was stirred for 1 hour. A saturated aqueous solution of ammonium chloride was added to the reaction mixture, and the resultant mixture was extracted with ethyl acetate. The resultant organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resultant crude crystals were recrystallized from chloroform-hexane to obtain the title compound.

reactant | 3′,4′,5′-Trimethoxyacetophenone | 12.0 g | COC=1C=C(C=C(C1OC)OC)C(C)=O | C11H14O4
reactant | potassium tert-butoxide | 8.16 g | CC(C)([O-])C.[K+]
reactant | diethyl oxalate | 11.4 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Ethyl 4-Hydroxy-2-oxo-4-(3,4,5-trimethoxy-phenyl)-3-butenoate | OC(=CC(C(=O)OCC)=O)C1=CC(=C(C(=C1)OC)OC)OC | C15H18O7
